US07250535B2
In a 300 ml four-necked flask thoroughly purged with nitrogen, 20 ml of tetrahydrofuran, 10.4 g (0.050 mol) of di-tert-amylphosphinous chloride and 0.13 g (0.0005 mol (corresponding to 1% by mol)) of copper(II) acetylacetonate were placed. To the contents of the flask, a Grignard reagent solution previously prepared from 6.8 g (0.060 mol) of chlorobenzene and 1.9 g (0.080 mol) of metallic magnesium in 45 ml of tetrahydrofuran was dropwise added over a period of 1 hour with maintaining the temperature at 40° C. to 45° C. After the dropwise addition was completed, stirring was conducted at the same temperature for 3 hours. After the temperature of the reaction solution was returned to room temperature, gas chromatography analysis was carried out, and as a result, di-tert-amylphosphinous chloride was present in trace amounts. Thereafter, 20 ml of toluene and 20 ml of a 5% sulfuric acid aqueous solution were added to the reaction solution to perform liquid separation. Then, the organic layer was washed with water and dried over anhydrous sodium sulfate. The solvent and a low-boiling component were distilled off under reduced pressure to obtain 12.0 g (purity: 94.4%) of the aimed di-tert-amylphenylphosphine as a viscous oily substance. The yield was 90.5%.

reactant | di-tert-amylphosphinous chloride | 0.050 mol, 10.4 g | C(C)(C)(CC)P(C(C)(C)CC)Cl | C10H22ClP
reactant | chlorobenzene | 0.060 mol, 6.8 g | ClC1=CC=CC=C1 | C6H5Cl
reactant | magnesium | 0.080 mol, 1.9 g | [Mg] | Mg
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
catalyst | copper(II) acetylacetonate | 0.0005 mol, 0.13 g | C/C(=C/C(=O)C)/O.C/C(=C/C(=O)C)/O.[Cu]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | di-tert-amylphenylphosphine | 12.0 g, yield was 90.5% | C(C)(C)(CC)P(C1=CC=CC=C1)C(C)(C)CC | C16H27P
